US07691855B2
[4-(4-Methyl-piperazin-1-ylmethyl)-phenyl]-{4-[1-(1-methyl-piperidin-4-yl)-5-p-tolyl-1H-pyrazol-4-yl]-pyrimidin-2-yl}-amine
The title compound is prepared as described in Example 54 starting from [4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-[4-(3-p-tolyl-1H-pyrazol-4-yl)-pyrimidin-2-yl]-amine (Example 60 and 1-methyl-piperidin-4-ol.

reactant | [4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-[4-(3-p-tolyl-1H-pyrazol-4-yl)-pyrimidin-2-yl]-amine | CN1CCN(CC1)CC1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C(=NNC1)C1=CC=C(C=C1)C | C26H29N7
reactant | 1-methyl-piperidin-4-ol | CN1CCC(CC1)O | C6H13NO
product | [4-(4-Methyl-piperazin-1-ylmethyl)-phenyl]-{4-[1-(1-methyl-piperidin-4-yl)-5-p-tolyl-1H-pyrazol-4-yl]-pyrimidin-2-yl}-amine | CN1CCN(CC1)CC1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NN(C1C1=CC=C(C=C1)C)C1CCN(CC1)C | C32H40N8
